US08445530B2
3-(5-Carboxy-2-methoxy-phenyldisulfanyl)-4-methoxy-benzoic acid
45 g (179.5 mmol) of 3-chlorosulfonyl-4-methoxy-benzoic acid were suspended in 200 ml of acetic acid and warmed to 40° C. Then a solution of 85.1 g (448.8 mmol) tin(II) chloride in 100 ml of hydrochloric acid was added within 15 min and the mixture was stirred for 2 h under reflux. The hot solution was added dropwise to 2000 ml of ice/water. The formed precipitate was collected by suction, washed with water and dried. 32.8 g of the title compound were obtained.

reactant | 3-chlorosulfonyl-4-methoxy-benzoic acid | 179.5 mmol, 45 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1OC | C8H7ClO5S
reactant | tin(II) chloride | 448.8 mmol, 85.1 g | [Sn](Cl)Cl
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 3-(5-Carboxy-2-methoxy-phenyldisulfanyl)-4-methoxy-benzoic acid | 32.8 g | C(=O)(O)C=1C=CC(=C(C1)SSC=1C=C(C(=O)O)C=CC1OC)OC | C16H14O6S2
